US04908461
Preparation of Perfluoro-2-Ethyl-1,3-Dioxole
To a 300 mL round-bottomed flask was charged lithium aluminum hydride (8.0 g, 0.211 mole) in THF (120 mL). Titanium (IV) chloride (9.84 g, 5.70 mL, 0.052 mole) was added with cooling. This mixture was heated to reflux for 30 minutes. After cooling to 30° C., the 4,5-dichloro-2,4,5-trifluoro-2-pentafluoroethyl-1,3-dioxolane (32.0 g, 0.102 mole) was introduced via a syringe while the temperature of the system was kept between 25° and 35° C. during the addition by cooling. After the addition was complete, the reaction mixture was stirred for an additional 5 to 10 minutes before distillation. 12.8 G (6.6 mL) of the desired product perfluoro-2-ethyl-1,3-dioxole (54% yield) was obtained: boiling point 40° C.

reactant | lithium aluminum hydride | 0.211 mole, 8.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,5-dichloro-2,4,5-trifluoro-2-pentafluoroethyl-1,3-dioxolane | 0.102 mole, 32.0 g | ClC1(OC(OC1(F)Cl)(C(C(F)(F)F)(F)F)F)F | C5Cl2F8O2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
catalyst | Titanium (IV) chloride | 0.052 mole, 5.70 mL, 9.84 g | [Ti](Cl)(Cl)(Cl)Cl
product | perfluoro-2-ethyl-1,3-dioxole | 54% yield | FC1(OC(=C(O1)F)F)C(C(F)(F)F)(F)F | C5F8O2
